US06583301B1
(B1) 1-Benzyloxy-6-chlorohexane
To a stirred solution of 6-chloro-1-hexanol (15.0 g, 0.110 mol) and benzyl bromide (18.8 g, 0.110 mol) in dry THF (200 ml) at room temperature under argon was slowly added (over 30 min.) sodium hydride powder (2.899 g, 0.121 mol). The solution was left overnight and the solids filtered off. The solvent was removed under reduced pressure, the residues taken up into dichloromethane (100 ml) and washed (2×20 ml water). The solution was dried over MgSO4 and the solvent removed to yield an orange oil which was subsequently distilled (160° C., 0.5 mBar) to yield the title compound (17.5 g, 70%) as a colourless oil. C13H19OCl requires 226. Found DCl: MNH4+, 244. δH (CDCl3) 1.49 (4H, m, (CH2)2(CH2)2Cl), 1.70 (2H, p, CH2CH2O), 1.83 (2H, t, CH2CH2Cl), 3.54, 3.56 (4H, 2×t, CH2CH2O, CH2Cl), 4.56 (2H, s, CH2Ph), 7.40 (5H, m, Ph). δC (CDCl3) 25.3 (1C, CH2(CH2)2Cl), 26.4 (1C, CH2(CH2)3Cl), 29.3 (1C, CH2(CH2)2O), 32.3 (1C, CH2CH2Cl), 44.8 (1C, CH2Cl), 69.9, 72.6 (2C, CH2O), 127.2 (1C, CH(CH2)2C), 127.3 (2C, CHC), 128.1 (2C, CHCHC), 138.4 (1C, CCH2O).

reactant | 6-chloro-1-hexanol | 0.110 mol, 15.0 g | ClCCCCCCO | C6H13ClO
reactant | benzyl bromide | 0.110 mol, 18.8 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 0.121 mol, 2.899 g | [H-].[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-Benzyloxy-6-chlorohexane | 17.5 g, 70% | C(C1=CC=CC=C1)OCCCCCCCl | C13H19ClO
